US07737142B2
Trans-1-{4-[2-[4-(2,3-dichlorophenyl)-piperazin-1-yl]-ethyl]-cyclohexyl}-3-ethyl-urea (compound 2)
0.56 g (1.2 mmol) trans-4-{2-[4-(2,3-dichlorophenyl)-piperazin-1-yl]-ethyl}-cyclohexyl-amine was dissolved in dry dichloromethane (20 ml), ethylisocyanate (0.1 ml, 1.3 mmol) was added and the reaction mixture was stirred at room temperature for 4 hours. The solvent was removed in vacuo. The residue was stirred with water, the precipitate was filtered, giving the title compound (0.33 g, 65%). Melting point: 235-8° C.

reactant | trans-4-{2-[4-(2,3-dichlorophenyl)-piperazin-1-yl]-ethyl}-cyclohexyl-amine | 1.2 mmol, 0.56 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)N | C18H27Cl2N3
reactant | ethylisocyanate | 1.3 mmol, 0.1 ml | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Trans-1-{4-[2-[4-(2,3-dichlorophenyl)-piperazin-1-yl]-ethyl]-cyclohexyl}-3-ethyl-urea | 0.33 g, 65% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(=O)NCC | C21H32Cl2N4O
